US07462611B2
Commercially available 2-amino-benzensulfonamide can be treated with N-iodosuccinimide to give the desired 2-amino-5-iodo-benzenesulfonamide intermediate.

reactant | 2-amino-benzensulfonamide | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
product | 2-amino-5-iodo-benzenesulfonamide | NC1=C(C=C(C=C1)I)S(=O)(=O)N | C6H7IN2O2S
